### PR TITLE
[Merged by Bors] - feat: add some result on `IsFractionRing` and `fieldRange`

### PR DESCRIPTION
**Pull request by acmepjz**
In `Mathlib/RingTheory/Localization/FractionRing.lean`:

- `IsFractionRing.closure_range_algebraMap`: if `A` is a ring with fraction field `K`, then the subfield of `K` generated by the image of `algebraMap A K` is equal to the whole field `K`.
- `IsFractionRing.ringHom_fieldRange_eq_of_comp_eq[_of_range_eq]`: if `A` is a ring with fraction field `K`, `L` is a field, `g : A →+* L` lifts to `f : K →+* L`, then the image of `f` is the field generated by the image of `g`.

In `Mathlib/FieldTheory/Adjoin.lean`:

- `IsFractionRing.algHom_fieldRange_eq_of_comp_eq[_of_range_eq]`: if `F` is a field, `A` is an `F`-algebra with fraction field `K`, `L` is a field, `g : A →ₐ[F] L` lifts to `f : K →ₐ[F] L`, `s` is a set such that the image of `g` is the subalgebra generated by `s`, then the image of `f` is the intermediate field generated by `s`. Note: this does not require `IsScalarTower F A K`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Localization/FieldRange.lean [hunk 1]
```diff
@@ -0,0 +1,80 @@
...
+/-- If `A` is a ring with fraction field `K`, `L` is a field, `g : A →+* L` lifts to `f : K →+* L`,
+then the image of `f` is the field genereated by the image of `g`. -/
+theorem ringHom_fieldRange_eq_of_comp_eq
+    (h : RingHom.comp f (algebraMap A K) = g) :
+    f.fieldRange = Subfield.closure g.range := by
+  refine le_antisymm ?_ (by simp [← h, Set.range_comp_subset_range])
+  rintro x ⟨y, rfl⟩
+  obtain ⟨_, _, -, rfl⟩ := div_surjective (A := A) y
+  simp_rw [map_div₀, ← RingHom.comp_apply, h]
+  apply Subfield.div_mem <;> (apply Subfield.subset_closure; simp)
```
Comment (alreadydone) [inline Mathlib/RingTheory/Localization/FieldRange.lean:33]: Continued from https://github.com/leanprover-community/mathlib4/pull/18648#discussion_r1838586450:
I mean that if you add
```
theorem closure_range_algebraMap : Subfield.closure (Set.range (algebraMap A K)) = ⊤ :=
  top_unique fun z _ ↦ by
    obtain ⟨x, y, hy, rfl⟩ := div_surjective (A := A) z
    apply div_mem <;> exact Subfield.subset_closure ⟨_, rfl⟩
```
after `div_surjective` (need to import Subfield.Basic, +2 transitive imports) then the following works:
```suggestion
theorem ringHom_fieldRange_eq_of_comp_eq
    (h : RingHom.comp f (algebraMap A K) = g) :
    f.fieldRange = Subfield.closure g.range := by
  rw [f.fieldRange_eq_map, ← IsFractionRing.closure_range_algebraMap (A := A),
    f.map_field_closure, ← Set.range_comp, ← f.coe_comp, h, g.coe_range]
```

Comment (acmepjz) [reply Mathlib/RingTheory/Localization/FieldRange.lean:33]: Thank you very much! I'll study it next day.

Comment (acmepjz) [reply Mathlib/RingTheory/Localization/FieldRange.lean:33]: Good observation! Added.

File: Mathlib/RingTheory/Localization/FieldRange.lean [hunk 2]
```diff
@@ -0,0 +1,85 @@
...
+
+namespace IsFractionRing
+
+variable {F A K L : Type*} [Field F] [CommRing A] [Algebra F A]
+  [Field K] [Algebra F K] [Algebra A K] [IsFractionRing A K] [Field L] [Algebra F L]
+
+variable (A K) in
+/-- If `A` is a ring with fraction field `K`, then the subfield of `K` generated by the image of
+`algebraMap A K` is equal to the whole field `K`. -/
+theorem closure_range_algebraMap : Subfield.closure (Set.range (algebraMap A K)) = ⊤ :=
```
Comment (alreadydone) [inline Mathlib/RingTheory/Localization/FieldRange.lean:23]: Putting it in this file means people will need ~30 more transitive imports to use it. But not adding imports (even just 2) to an existing file is also nice ...

**Review by alreadydone — APPROVED** [review]

File: Mathlib/RingTheory/Localization/FieldRange.lean (hunk 2 above)
Comment (acmepjz) [reply Mathlib/RingTheory/Localization/FieldRange.lean:23]: > Putting it in this file means people will need ~30 more transitive imports to use it. But not adding imports (even just 2) to an existing file is also nice ...

What's your suggestion on the file? It seems that `Subfield` is lightweight, while `IntermediateField` is heavy... So it's possible to move 3 results on `Subfield` to earlier files, by adding a little bit more imports to that file.

In application I need to use `IntermediateField` version, though.

Comment (acmepjz) [reply Mathlib/RingTheory/Localization/FieldRange.lean:23]: I found that `Mathlib.FieldTheory.Adjoin` already imports `IsFractionRing`. So these `AlgHom` version can be moved to that file 😂 and we don't need to introduce a new file anymore. Do you think it's a good idea?

Comment (alreadydone) [reply Mathlib/RingTheory/Localization/FieldRange.lean]: Yeah, let's move the remaining two results to FieldTheory/Adjoin. It's natural since they are about `IntermediateField.adjoin`.

Comment (acmepjz) [reply Mathlib/RingTheory/Localization/FieldRange.lean]: Done.

**Comment by alreadydone** [comment]
Thanks!
maintainer merge

File: Mathlib/RingTheory/Localization/FractionRing.lean [hunk 3]
```diff
@@ -3,11 +3,12 @@ Copyright (c) 2018 Kenny Lau. All rights reserved.
 Released under Apache 2.0 license as described in the file LICENSE.
 Authors: Kenny Lau, Mario Carneiro, Johan Commelin, Amelia Livingston, Anne Baanen
 -/
-import Mathlib.RingTheory.SimpleRing.Basic
 import Mathlib.Algebra.Field.Equiv
+import Mathlib.Algebra.Field.Subfield.Basic
 import Mathlib.Algebra.Order.Field.Rat
 import Mathlib.Algebra.Order.Ring.Int
 import Mathlib.RingTheory.Localization.Basic
+import Mathlib.RingTheory.SimpleRing.Basic
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Localization/FractionRing.lean:11]: I am a little concerned about this new import. Maybe we can create a new file?

Comment (alreadydone) [reply Mathlib/RingTheory/Localization/FractionRing.lean:11]: See the comment here: https://github.com/leanprover-community/mathlib4/pull/18868#issuecomment-2472913388

Comment (acmepjz) [reply Mathlib/RingTheory/Localization/FractionRing.lean:11]: Note that the new import is `Mathlib.Algebra.Field.Subfield.Basic`. The `Mathlib.RingTheory.SimpleRing.Basic` is just reordered alphabetically.

Comment (riccardobrasca) [reply Mathlib/RingTheory/Localization/FractionRing.lean:11]: Ah ok!

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
